US06140342
cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester
A solution of cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-7-methoxy-6-methoxycarbonyloxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester (500 mg, 0.80 mmol) and potassium carbonate (222 mg, 1.6 mmol) in methanol (5 mL) was stirred at room temperature overnight. A small amount of water was added, and the methanol was removed in vacuo. Additional water (20 mL) was added and the aqueous mixture was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with a saturated sodium bicarbonate solution (10 mL), brine (10 mL), and then dried over sodium sulfate, filtered and concentrated in vacuo to give 412 mg crude product. Purification by silica gel chromatography using 0-20% ethyl acetate/hexanes as eluent afforded 378 mg of the title compound (84%): MS m/z 565 (M+ +1), 582 (M+ +18); 1H NMR (CDCl3) δ 7.08 (C8, s, 1H), 6.52 (C5, s, 1H), 1.15 (C2-Me, d, 3H, J=6.0 Hz).

reactant | cis-4-[(3,5-bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-7-methoxy-6-methoxycarbonyloxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 0.80 mmol, 500 mg | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)OC(=O)OC)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C27H28F6N2O8
reactant | potassium carbonate | 1.6 mmol, 222 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-methoxycarbonyl-amino]-6-hydroxy-7-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic acid ethyl ester | 378 mg, 84% | C(C)OC(=O)N1[C@H](C[C@H](C2=CC(=C(C=C12)OC)O)N(C(=O)OC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C25H26F6N2O6
